US06660744B1
A mixture of 1-(3-azetanyl)-3-(4-phenoxyphenyl)-1H-pyrazolo [3,4-d]pyrimidin-4-amine (0.05 g, 0.00014 mol), 3-(diethylamino)propionic acid hydrochloride (0.0032 g, 0.000175 mol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.0034 g, 0.000175 mol), N,N′-diisopropylethylamine (0.068 g, 0.00053 mol) and 1-hydroxy-7-azabenzotriazole (0.019 g, 0.00014 mol) in anhydrous N,N-dimethylformamide (6 mL) was stirred for 18 hours at room temperature. The solvent was removed under reduced pressure. The residue was dissolved in dichloromethane (3 mL) and washed with water (2 mL). The solvent was removed under reduced pressure. The residue was purified by RP-HPLC (Hypersilprep HS C18, 8 μm, 250×21.1 mm; 5%-100% over 35 min with 0.1 M ammonium acetate, 21 mL/min) to yield 1-{3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-azetanyl}-3-(diethylamino)-1-propanone (0.025 g, 0.00005 mol).

reactant | 1-(3-azetanyl)-3-(4-phenoxyphenyl)-1H-pyrazolo [3,4-d]pyrimidin-4-amine | 0.00014 mol, 0.05 g | N1CC(C1)N1N=C(C=2C1=NC=NC2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C20H18N6O
reactant | 3-(diethylamino)propionic acid hydrochloride | 0.000175 mol, 0.0032 g | Cl.C(C)N(CCC(=O)O)CC
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.000175 mol, 0.0034 g | Cl.CN(CCCN=C=NCC)C
reactant | N,N′-diisopropylethylamine | 0.00053 mol, 0.068 g | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-hydroxy-7-azabenzotriazole | 0.00014 mol, 0.019 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 1-{3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-azetanyl}-3-(diethylamino)-1-propanone | 0.00005 mol, 0.025 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CN(C2)C(CCN(CC)CC)=O | C27H31N7O2
